US05739129
2-(7-Fluoro-2,4-dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
A solution of 1.724 g of 2-(2-amino-4-fluoro-phenylamino)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (5.20 mmol) in 15 mL of tetrahydrofuran was transferred to an addition funnel. A solution of 0.506 mL of malonyl dichloride (5.20 mmol, 1.0 equiv) in 15 mL tetrahydrofuran was transferred to a separate addition funnel. Each solution of each reagent was simultaneously added dropwise over 30 min. to 100 mL of tetrahydrofuran at ambient temperature under nitrogen with vigorous agitation. After stirring for 20 min. at ambient temperature, an additional 0.506 mL of malonyl dichloride (5.20 mmol, 0.1 equiv) was added in a single portion. The reaction was allowed to stir an additional 2.5 hrs. and then evaporated in vacuo to a residue. The residue was purified on flash grade silica gel with 1:3 ethyl acetate/hexane followed by 3:1 ethyl acetate/hexane. The appropriate fractions were combined, evaporated in vacuo to a residue and triturated with hexane. The hexane was removed in vacuo and the residual solid was dried under high vacuum to provide 1.061 g of the title compound as a tan solid. 1H NMR (300 MHz, CDCl3) d 8.14 (b, 1H), 7.45 (dd, 1H, J=5.5. 9.2), 7.29 (m, 1H), 7.05 (m, 1H), 6.94 (m, 3H), 6.78 (m, 1H), 4.99 (m, 1H), 4.37 (d, 1H, J=16.4), 3.82 (s, 3H), 3.69 (d, 1H, J=16.0), 3.40 (m, 2H), 1.09 (d, 6H, J=6.8); low resolution MS (FAB)m/e 400 (MH+).

reactant | 2-(2-amino-4-fluoro-phenylamino)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 5.20 mmol, 1.724 g | NC1=C(C=CC(=C1)F)NCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C18H22FN3O2
reactant | malonyl dichloride | 5.20 mmol, 0.506 mL, 1.0 equiv | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | malonyl dichloride | 5.20 mmol, 0.506 mL, 0.1 equiv | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(7-Fluoro-2,4-dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 1.061 g | FC1=CC2=C(N(C(CC(N2)=O)=O)CC(=O)N(C2=CC=C(C=C2)OC)C(C)C)C=C1 | C21H22FN3O4
